US07795253B2
a) 4-(5,6-Dihydro-8H-imidazo[5,1-c][1,4]oxazin-8-yl)-N-methoxy-N-methylbenzamide
9.30 mmol of thionyl chloride are added to a solution of 3.10 mmol of 4-(5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazin-8-yl)benzoic acid in 5 ml of chloroform. The reaction mixture is heated to reflux for 3 hours and then evaporated. The residue is stripped with toluene and then taken up in 10 ml of dichloromethane. The reaction solution is cooled to 0-5° C., and 3.10 mmol of N,O-dimethylhydroxylamine hydrochloride, followed by 15.5 mmol of diisopropylethylamine, are added. The reaction mixture is stirred at room temperature for 16 hours and filtered through Hyflo, and the filtrate is evaporated. The title compound is obtained as a yellowish oil from the residue by flash chromatography (SiO2 60F). Rf=0.13 (dichloromethane-2M ammonia in ethanol 97:3); Rt=4.00.

reactant | thionyl chloride | 9.30 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(5,6-dihydro-8H-imidazo[5,1-c][1,4]oxazin-8-yl)benzoic acid | 3.10 mmol | C=1N=CN2C1C(OCC2)C2=CC=C(C(=O)O)C=C2 | C13H12N2O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 3.10 mmol | Cl.CNOC
reactant | diisopropylethylamine | 15.5 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(5,6-Dihydro-8H-imidazo[5,1-c][1,4]oxazin-8-yl)-N-methoxy-N-methylbenzamide | C=1N=CN2C1C(OCC2)C2=CC=C(C(=O)N(C)OC)C=C2 | C15H17N3O3
